US07179823B1
After a mixture of ethyl [1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-yl]acetate (509 mg), 1N sodium hydroxide solution (2 ml), tetrahydrofuran (4 ml), and ethanol (4 ml) was stirred at room temperature for 2 hours, 1N hydrochloric acid (2 ml) was added to the mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The resulting colorless crystals were collected by filtration to obtain [1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-yl]acetic acid (408 mg, yield: 85%). This was recrystallized from acetone-hexane. Melting point: 144–145° C.

reactant | ethyl [1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-yl]acetate | 509 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1N=C(C(=C1)CC(=O)OCC)C1=CC=CC=C1 | C30H28N4O4
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | [1-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-3-phenyl-1H-pyrazol-4-yl]acetic acid | 408 mg, yield: 85% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=N1)CN1N=C(C(=C1)CC(=O)O)C1=CC=CC=C1 | C28H24N4O4
